US05225422
A mixture of 6-methylpyridine-2-carboxylic acid (13.7 g, 100 mmol) and thionyl chloride (40 ml) was stirred at 70° C. for 1 hour. The mixture was dried, and dichloromethane (40 ml) was added to the residue. The solution was added to a dichloromethane solution of 2-amino-2-methyl-propanol (36.0 g, 400 mmol), and stirred. The mixture was washed with water, and dried over anhydrous magnesium sulfate. The extract was concentrated and chromatographed on silica gel to give an amide compound. 4,4-Dimethyl-2-oxazoline compound was obtained by reacting the amide compound and thionyl chloride in dichloromethane. 4,4-Dimethyl-2-oxazoline compound was reacted with n-butyl lithium at -78° C. in anhydrous tetrahydrofuran, and chloroethyl phenyl ether (782 mg, 5 mmol) was added. Purified alkylated compound was treated with ethanol saturated with HCl to give ethyl 6-(3-chloropropyl)pyridine-2-carboxylate.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 4,4-Dimethyl-2-oxazoline | CC1(N=COC1)C | C5H9NO
reactant | n-butyl lithium | C(CCC)[Li]
reactant | chloroethyl phenyl ether | 5 mmol, 782 mg | C1(=CC=CC=C1)OCCCl | C8H9ClO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl 6-(3-chloropropyl)pyridine-2-carboxylate | ClCCCC1=CC=CC(=N1)C(=O)OCC | C11H14ClNO2
